US04876249
Preparation of 4,4-Dimethyl-1-isopropyl-2-undecyl-2-imidazoline
22.84 g. (100 mmoles) of ethyl laurate and 15.34 g. (118 mmoles) of Nl -isopropyl-2-methyl-1,2-propanediamine is heated at 130°-230° C. until approximately 100 mmoles of ethanol is collected. Toluene is then cautiously added and the heating is continued until no more water separates. The solution is acidified, the aqueous layer is separated and basified with NaOH. This is extracted with ethyl acetate, the organic extract is dried and concentrated. The oil is distilled at 150-152° C./1.2 mm to give 16.74 g (58%) of product.

reactant | ethyl laurate | 100 mmoles | C(CCCCCCCCCCC)(=O)OCC | C14H28O2
reactant | Nl -isopropyl-2-methyl-1,2-propanediamine | 118 mmoles | C(C)(C)NCC(C)(N)C | C7H18N2
reactant | ethanol | approximately 100 mmoles | C(C)O | C2H6O
product | 4,4-Dimethyl-1-isopropyl-2-undecyl-2-imidazoline | 16.74 g, 58% | CC1(N=C(N(C1)C(C)C)CCCCCCCCCCC)C | C19H38N2
